US04260633
1.5 Grams (8.3 mmol) of the (S)-2-bromo-3-methylbutanoic acid is titrated with 8 ml of 1 M potassium hydroxide in methanol to a phenolphthalein endpoint. The solution is evaporated under high vacuum at 40° for 1 hour, and 0.51 g (2.33 mmol) of the resulting salt is heated together with 1.52 g (9.43 mmol) of 4-trifluoromethylaniline at 90°-95° under nitrogen for 1 hour. Heating is discontinued and the reaction worked up immediately by partition between ether/5% sodium hydroxide. The layers are separated and the organic phase is extracted with 5% sodium hydroxide (2×). The aqueous layers are combined and washed with ether (2×), then acidified with ice and conc. HCl and extracted with ether (3×). The latter ether extracts are washed with brine, dried over magnesium sulfate, filtered and evaporated, giving (S)-2-(4-trifluoromethylphenylamino)-3-methylbutanoic acid.

reactant | (S)-2-bromo-3-methylbutanoic acid | 8.3 mmol | Br[C@H](C(=O)O)C(C)C | C5H9BrO2
reactant | potassium hydroxide | 1 M, 8 ml | [OH-].[K+]
reactant | phenolphthalein | C=1C=CC2=C(C1)C(=O)OC2(C=3C=CC(=CC3)O)C=4C=CC(=CC4)O | C20H14O4
reactant | 4-trifluoromethylaniline | 9.43 mmol, 1.52 g | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
solvent | methanol | CO | CH4O
product | (S)-2-(4-trifluoromethylphenylamino)-3-methylbutanoic acid | FC(C1=CC=C(C=C1)N[C@H](C(=O)O)C(C)C)(F)F | C12H14F3NO2
